US06348474B1
5-Bromo-3-(2-chloro-4-(isopropoxylcarbonyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine
To a solution of 5-bromo-3-(2-chloro-4-carboxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine (400 mg) in N,N-dimethylformamide (4 ml) were successively added potassium carbonate (218 mg) and isopropyl iodide (197 mg), and the mixture was stirred at room temperature for 24 hr. Water and ethyl acetate were added for partitioning. The organic layer was successively washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. Hexane was added to the residue and the mixture was heated and allowed to cool. The precipitated crystals were collected by filtration. The crystals were dried under reduced pressure and by heating to give the objective compound (394 mg) as gray-brown crystals.

reactant | 5-bromo-3-(2-chloro-4-carboxybenzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 400 mg | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C(=O)O)Cl | C15H11BrClN3O2
reactant | potassium carbonate | 218 mg | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl iodide | 197 mg | C(C)(C)I | C3H7I
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Bromo-3-(2-chloro-4-(isopropoxylcarbonyl)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine | 394 mg | BrC1=CC=C2C(=N1)N(C(=N2)C)CC2=C(C=C(C=C2)C(=O)OC(C)C)Cl | C18H17BrClN3O2
